US04414388
2-Amino-4-(2-methyl-2-propyl)thiazole (15.6 g., 0.1 mole) and diethyl ethoxymethylenemalonate (23.8 g., 0.11 mole) were combined and heated on a steam bath for 2 hours. 2-(2,2-Dicarbethoxyethenylamino)-4-(2-methyl-2-propyl) thiazole was obtained as a wet solid on cooling and used directly in the next step.

reactant | 2-Amino-4-(2-methyl-2-propyl)thiazole | 0.1 mole, 15.6 g | NC=1SC=C(N1)C(C)(C)C | C7H12N2S
reactant | diethyl ethoxymethylenemalonate | 0.11 mole, 23.8 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
product | 2-(2,2-Dicarbethoxyethenylamino)-4-(2-methyl-2-propyl) thiazole | C(=O)(OCC)C(=CNC=1SC=C(N1)C(C)(C)C)C(=O)OCC | C15H22N2O4S
